US04927565
77 mg of ethyl (4S,5S)-5-amino-4-hydroxy-2-[2-(2-tetrahydropyranyloxy)ethyl]-7-methyl-2-octenoate was dissolved in 1.0 ml of dimethylformamide, and 33 μl of triethylamine and 60 μl of di-t-butyl dicarbonate were added thereto. The mixture was stirred for 2 hours at room temperature. The reaction solution was poured into 10 ml of water and extracted with ethyl acetate. The ethyl acetate layer was washed sequentially with water and a saturated sodium chloride aqueous solution, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by the silica gel column chromatography (3 g of Kiesel gel 60) by using n-hexane/ethyl acetate (10/1) to obtain 16 mg of ethyl (4S,5S)-5-tert-butoxycarbonylamino-4-hydroxy-2-[2-(2-tetrahydropyranyloxy)ethyl]-7-methyl-2-octenoate as a colorless oily substance.

reactant | ethyl (4S,5S)-5-amino-4-hydroxy-2-[2-(2-tetrahydropyranyloxy)ethyl]-7-methyl-2-octenoate | 77 mg | N[C@H]([C@H](C=C(C(=O)OCC)CCOC1OCCCC1)O)CC(C)C | C18H33NO5
reactant | triethylamine | 33 μl | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 60 μl | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 10 ml | O | H2O
solvent | dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
product | ethyl (4S,5S)-5-tert-butoxycarbonylamino-4-hydroxy-2-[2-(2-tetrahydropyranyloxy)ethyl]-7-methyl-2-octenoate | 16 mg | C(C)(C)(C)OC(=O)N[C@H]([C@H](C=C(C(=O)OCC)CCOC1OCCCC1)O)CC(C)C | C23H41NO7
